US08865726B2
A mixture of 3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-ol (15.0 mg, 0.0368 mmol), tosyl chloride (7.0 mg, 0.0368 mmol) and NEt3 (5.13 μL, 0.037 mmol) in dioxane (2 mL) was heated at 80° C. for 18 hours. Additional portions of tosyl chloride (7.0 mg, 0.037 mmol) and NEt3 (5.1 μL, 0.037 mmol) were added and the mixture continued to heat at 80° C. for 12 hours. The cooled reaction mixture was poured into EtOAc and extracted with 10% HCl. The organic extract was dried (Na2SO4), filtered, and concentrated. Purification of the crude material by column chromatography, eluting with 1-2% MeOH/dichloromethane, afforded 3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl 4-methylbenzenesulfonate as a brown-yellow film (19.0 mg, 92%). LCMS (APCI+) m/z 562 [M+H]+.

reactant | 3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-ol | 0.0368 mmol, 15.0 mg | C[Si](CCOCN1C(=NC=C1)C1=CC=C(C=C1)C=1C=NN2C1N=C(C=C2)O)(C)C | C21H25N5O2Si
reactant | tosyl chloride | 0.0368 mmol, 7.0 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | NEt3 | 0.037 mmol, 5.13 μL | CCN(CC)CC | C6H15N
reactant | tosyl chloride | 0.037 mmol, 7.0 mg | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | NEt3 | 0.037 mmol, 5.1 μL | CCN(CC)CC | C6H15N
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | dioxane | 2 mL | O1CCOCC1 | C4H8O2
product | 3-(4-(1-((2-(trimethylsilyl)ethoxy)methyl)-1H-imidazol-2-yl)phenyl)pyrazolo[1,5-a]pyrimidin-5-yl 4-methylbenzenesulfonate | CC1=CC=C(C=C1)S(=O)(=O)OC1=NC=2N(C=C1)N=CC2C2=CC=C(C=C2)C=2N(C=CN2)COCC[Si](C)(C)C | C28H31N5O4SSi
